US09169259B2
A mixture of 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (41 mg, 0.1 mmol), 2-(pyridin-4-yl)ethanamine (15 mg, 0.12 mmol), EDCI (77 mg, 0.4 mmol), N-methyl-imidazole (33 mg, 0.4 mmol), dichloromethane (3 mL) and DMF (0.5 mL) was stirred at room temperature for 16 h. The solution was concentrated in vacuo, triturated with water (10 mL×3), and the residue purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=30:1) to give 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(2-(pyridin-4-yl)ethyl)benzamide (12 mg, 24%) as a yellow oil. 1H NMR (300 MHz, DMSO): δ 9.68 (s, 1H), 8.81 (s, 1H), 8.74-8.70 (m, 1H), 8.49-8.47 (m, 2H), 8.23 (s, 1H), 8.03-7.95 (m, 4 h), 7.68 (s, 1H), 7.46 (t, 1H, J=8.4 Hz), 7.30 (s, 1H), 7.29 (s, 1H), 6.75 (d, 1H, J=7.5 Hz), 6.09 (d, 1H, J=8.1 Hz), 4.25-4.21 (m, 1H), 3.61-3.56 (m, 2H), 3.47-3.40 (m, 2H), 2.92 (t, 2H, J=6.6 Hz), 2.11-1.99 (m, 3H), 1.71 (s, 1H), 0.85 (d, 3H, J=6.6 Hz). LC-MS: [M+H]+, 519, tR=1.333 min, HPLC: 100% at 214 nm, 100% at 254 nm, tR=5.008 min.

reactant | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.1 mmol, 41 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)O)C=C1)C=CN2 | C23H22N6O2
reactant | 2-(pyridin-4-yl)ethanamine | 0.12 mmol, 15 mg | N1=CC=C(C=C1)CCN | C7H10N2
reactant | EDCI | 0.4 mmol, 77 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-methyl-imidazole | 0.4 mmol, 33 mg | CN1C=NC=C1 | C4H6N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(2-(pyridin-4-yl)ethyl)benzamide | 12 mg, 24% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)NCCC3=CC=NC=C3)C=C1)C=CN2 | C30H30N8O
